US05132424
6-Cyclohexyl-6,7-dihydro-2-phenyl-4-(phenylmethyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione
To a suspension of 6-cyclohexyl-4,7-dihydro-2-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione, prepared as described in Preparation 1 hereinabove, (2.00 g., 5.74 mmoles) and anhydrous potassium carbonate (795 mg., 5.75 mmole) in dry DMF (30 ml. in a flask there was added benzyl bromide (1.37 ml., 11.5 mmoles). The flask was stoppered tightly and stirred at room temperature for 24 hours. The mixture was diluted with water (150 ml.), stirred for 30 minutes and suction filtered. The collected solid was washed twice more water and air dried. The resulting solid was crystallized from an ethanol/chloroform, about 3/1 V/V ratio, 650 ml., dissolved at reflux temperature of the mixture and then cooled to 0° C. to afford 2.11 g. of the tilted product as fine, ivory colored needle crystals (84% yield,, m.p. 276°-278° C.). 1H NMR (CDCl3) 8.0 (m,2H, pyrazole o-phenyl), 7.3-7.5 (m,8H, phenyl), 6.44 (s, 1H, pyrazole-H), 5.93 (s, 2H, CH2 phenyl), 4.41 (s, 2H, lactam CH2), 4.18 (m, 1H, cyclohexyl CH), 1.1-2.0 (m, 10H, cyclohexyl CH2); IR (mull, cm1) 1697, 1679, 1618, 1591, 1577; UV (ethanol) λ max (ε)205(35,680), 227(23,860), 267(33,080), 285 sh (15,450), 295 sh (11,460) 338 (6,870); MS m/e (rel. intens.) 438(M+,15), 347(5), 91(100); Anal. calcd. for C27H26N4O2 : % Calcd.: C, 73.95; H, 5.98; N, 12.78; % Found: C, 73.88; H, 6.07; N, 12.80. TLC (silica, 4/1 V/V chloroform/ethylacetate) Rf 0.56.

reactant | 6-cyclohexyl-4,7-dihydro-2-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione | C1(CCCCC1)N1C(C=2NC=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)=O | C20H20N4O2
reactant | potassium carbonate | 5.75 mmole, 795 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 11.5 mmoles, 1.37 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
solvent | chloroform ethylacetate | C(Cl)(Cl)Cl.C(C)OC(C)=O
product | 6-Cyclohexyl-6,7-dihydro-2-phenyl-4-(phenylmethyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione | 84% yield | C1(CCCCC1)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)CC3=CC=CC=C3)=O | C27H26N4O2
